US03962443
Ethyl 2-(4-acetyl- 1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 59)
To 16 ml of diphenyl ether heated at 250° - 255°C was added with stirring 2.0 g of diethyl, N-[2-(4-acetyl-1-piperazinyl)-4-pyrimidinyl]-aminomethylenemalonate, gentle refluxing was continuted for 10 minutes, and then the mixture allowed to cool to room temperature. To the mixture was added 12 ml of n-hexane and the resulting precipitate was collected, washed with ethanol, and recrystallized from ethanol to yield 1.52 g of the product, m.p. 300° - 302°C with decomposition.

reactant | diphenyl ether | 16 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | N-[2-(4-acetyl-1-piperazinyl)-4-pyrimidinyl]-aminomethylenemalonate | C(C)(=O)N1CCN(CC1)C1=NC=CC(=N1)NC=C(C(=O)[O-])C(=O)[O-]
solvent | n-hexane | 12 ml | CCCCCC | C6H14
product | Ethyl 2-(4-acetyl- 1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 1.52 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)OCC | C16H19N5O4
